US07476666B2
Step 1: Dimethyl 4-benzyloxy-1-(2-nitrophenyl)-1H-pyrazole-3,5-dicarboxylate
A solution of dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate (2.5 g, 8.63 mmol) and 2-fluoronitrobenzene (1.45 g, 10.3 mmol) in anhydrous DMF (15 mL) was treated with Cs2CO3 (3.6 g, 11 mmol) and stirred at 50° C. for 6 hours. The solvent was removed in vacuo, the residue was suspended EtOAc, and the insoluble salts were removed by filtration. The filtrate solvent was removed under reduced pressure and the residue was purified by flash column chromatography on silica gel using a gradient elution of 1:4 to 1:2 to 1:1 EtOAc:hexanes. Collection and concentration of the appropriate fractions yielded the product as an oil. 1H NMR (400 MHz, CDCl3) δ 8.21 (d, J=8.0 Hz, 1H), 7.75 (t, J=7.6 Hz, 1H), 7.68 (t, J=7.9 Hz, 1H), 7.48-7.53 (m, 3H), 7.36-7.42 (m, 3H), 5.24 (s, 2H), 3.96 (s, 3H), 3.69 (s, 3H); ES MS (M+1)=412.

reactant | dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate | 8.63 mmol, 2.5 g | C(C1=CC=CC=C1)OC=1C(=NNC1C(=O)OC)C(=O)OC | C14H14N2O5
reactant | 2-fluoronitrobenzene | 10.3 mmol, 1.45 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Cs2CO3 | 11 mmol, 3.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | Dimethyl 4-benzyloxy-1-(2-nitrophenyl)-1H-pyrazole-3,5-dicarboxylate | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC | C20H17N3O7
